US07294624B2
A mixture of dimethyl aminomalonate hydrochloride (10 g, 54.5 mmol), di-tert-butyl dicarbonate (12 g, 1.02 eq) and triethylamine (19 mL, 2.5 eq) in dichloromethane (200 mL) was stirred overnight. The reaction was quenched with water/brine (1:1, 100 mL). The organic layer was separated, dried (MgSO4), concentrated and purified by silica gel chromatography (40% ethyl acetate/hexane) to provide the desired dimethyl (Boc-amino)malonate (11.9 g, 88%). MS found: (M+H)+=270.

reactant | dimethyl aminomalonate hydrochloride | 54.5 mmol, 10 g | Cl.NC(C(=O)OC)C(=O)OC
reactant | di-tert-butyl dicarbonate | 12 g, 1.02 eq | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | triethylamine | 19 mL, 2.5 eq | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 200 mL | ClCCl | CH2Cl2
product | dimethyl (Boc-amino)malonate | 11.9 g, 88% | C(=O)(OC(C)(C)C)NC(C(=O)OC)C(=O)OC | C10H17NO6
